US07732626B2
[2,6-dimethyl-4-(tetrahydro-2H-thiopyran-4-yloxy)phenyl]boronic acid
To a solution of 4-(4-bromo-3,5-dimethylphenoxy)tetrahydro-2H-thiopyran (3.01 g, 10.0 mmol) in tetrahydrofuran (50 mL) was added dropwise n-butyllithium hexane solution (1.6 M, 6.57 mL, 10.5 mmol) at −78° C., and the reaction mixture was stirred for 1.5 hr at the same temperature. Triisopropyl borate (6.92 mL, 30.0 mmol) was added, and the mixture was stirred overnight, during which the mixture was allowed to warm to room temperature. The reaction mixture was ice-cooled, 2 M hydrochloric acid (50 mL) was added, and the mixture was stirred for 2.5 hr. The aqueous layer and the organic layer were separated, and the organic layer was washed with saturated brine and saturated aqueous sodium hydrogencarbonate while simultaneously adjusting to neutral. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was washed with cool hexane to give the title compound (1.89 g, yield 71%) as colorless crystals.

reactant | 4-(4-bromo-3,5-dimethylphenoxy)tetrahydro-2H-thiopyran | 10.0 mmol, 3.01 g | BrC1=C(C=C(OC2CCSCC2)C=C1C)C | C13H17BrOS
reactant | n-butyllithium hexane | 10.5 mmol, 1.6 M, 6.57 mL | CCCCCC.C(CCC)[Li]
reactant | Triisopropyl borate | 30.0 mmol, 6.92 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 2 M, 50 mL | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | [2,6-dimethyl-4-(tetrahydro-2H-thiopyran-4-yloxy)phenyl]boronic acid | 1.89 g, yield 71% | CC1=C(C(=CC(=C1)OC1CCSCC1)C)B(O)O | C13H19BO3S
